US06855710B2
(Z)-3-{1-[3-(aminocarbonyl)phenylamino]-1-phenyl-methylidene}-2-indolinone
Prepared analogously to Example 9 from 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone and 3-aminobenzoic acid amide in THF and subsequent treatment with sodium hydroxide solution in methanol.

reactant | 1-benzoyl-3-(1-chloro-1-phenyl-methylidene)-2-indolinone | C(C1=CC=CC=C1)(=O)N1C(C(C2=CC=CC=C12)=C(C1=CC=CC=C1)Cl)=O | C22H14ClNO2
reactant | 3-aminobenzoic acid amide | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
solvent | methanol | CO | CH4O
product | (Z)-3-{1-[3-(aminocarbonyl)phenylamino]-1-phenyl-methylidene}-2-indolinone | NC(=O)C=1C=C(C=CC1)N\C(\C1=CC=CC=C1)=C\1/C(NC2=CC=CC=C12)=O | C22H17N3O2
